* S1 init_negative_read at 0.0125ps -- BVM-S1 canonical source convergence (frozen)
* Closure: copied jjmit + bvm_cell; XBVM1 WL1 BL1 SE1 SL1 BVM; only R_LD SL1 0 12
* Init: WL/BL ramp to -100U over 10-11 ps, hold to 20 ps, return to 0 by 21 ps.
* Read: WL+SE +100 uA 96-105 ps
.include jjmit.cir
.include bvm_cell.cir

XBVM1 WL1 BL1 SE1 SL1 BVM

R_LD SL1 0 12

I_WL1 0 WL1 pwl(0p 0 10p 0 11p -100U 20p -100U 21p 0 95p 0 96p 100U 105p 100U 106p 0 170p 0)
I_BL1 0 BL1 pwl(0p 0 10p 0 11p -100U 20p -100U 21p 0 170p 0)
I_SE1 0 SE1 pwl(0p 0 95p 0 96p 100U 105p 100U 106p 0 170p 0)

.tran 0.0125p 170p

* Direct junction probes (registered, S1-001 design):
*   V(SL1)        SL1 -> 0
*   I(L_SL|XBVM1) N8 -> SL1
*   P/V(B_JM1|XBVM1) N1 -> n_jm1o, vts=+1, rd=+1
*   P/V(B_JM2|XBVM1) n_jm2i -> N2, vts=+1, rd=+1
.print P(B_JM1|XBVM1) V(B_JM1|XBVM1)
.print P(B_JM2|XBVM1) V(B_JM2|XBVM1)
.print V(SL1) I(L_SL|XBVM1)
.print I(I_WL1) I(I_SE1)
.end
